US07745641B2
In a similar manner to Step 1 of Example 328, 4-(3-methoxy-1-propinyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (157 mg, 0.306 mmol) was dissolved in methanol (6.3 mL), and the solution was added with 10% Pd—C (46 mg) to react hydrogen. The reaction mixture was filtered using Celite. The solvent of the filtrate was evaporated under reduced pressure to obtain 4-(3-methoxypropyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (152 mg, yield 96%).

reactant | 4-(3-methoxy-1-propinyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.306 mmol, 157 mg | COCC#CC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C31H35N3O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 6.3 mL | CO | CH4O
catalyst | Pd—C | 46 mg | [Pd] | Pd
product | 4-(3-methoxypropyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 152 mg, yield 96% | COCCCC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C31H39N3O4
